US07994163B2
6-(Aminomethyl)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add borane-methyl sulfide complex (40 mL, 80 mmol, 2M solution in THF) to a solution of 3-tert-butoxycarbonyl-7-chloro-6-cyano-2,3,4,5-tetrahydro-1H-benzo[d]azepine (4.79 g, 10.2 mmol) in anhydrous THF (120 mL). Reflux the mixture overnight under nitrogen. Cool the mixture to room temperature and quench with methanol. Add KHSO4 (20 g in water) and stir for 1 h. Remove the organic solvent in vacuo and basify by addition of solid K2CO3. Extract with DCM and wash with brine. Collect the organic layer, dry over anhydrous Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0 and 3:1), DCM and DCM/(chloroform:methanol:concentrated ammonium hydroxide 88:18: 2) (20:1, 10:1 and 5:1) to give the title compound (2.56 g, 81% over 2 steps). MS (ES+) m/z: 311 (M+H)+.

reactant | borane methyl sulfide | 80 mmol, 2M, 40 mL | B.CSC
reactant | 3-tert-butoxycarbonyl-7-chloro-6-cyano-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 10.2 mmol, 4.79 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)C#N | C16H19ClN2O2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 6-(Aminomethyl)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.56 g, 81% | NCC1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C16H23ClN2O2
